US09163020B2
See FIG. 20(d). To a stirred solution of 6-bromo-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (0.13 g, 0.34 mmol) in dichloromethane (10 mL), were added 2-fluoroethan-1-amine (0.06 g, 0.68 mmol), triethylamine (0.1 g, 1.02 mmol) and T3P (0.32 g, 1.02 mmol) and the mixture was stirred at RT for 16 h. Then the reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with brine and concentrated. The crude product was purified by silica gel column chromatography and subsequent PREP purification to afford 6-bromo-N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide as a white solid. Yield: 25 mg (17%). ES+MS m/z: 424.2 (M+1). 1H NMR (400 MHz, DMSO-d6): δ ppm 2.24 (s, 3H), 3.68 (bs, 1H), 3.75 (bs, 1H), 4.51 (bs, 1H), 4.64 (bs, 1H), 5.70 (s, 2H), 8.28 (s, 1H), 8.39 (d, 1H, J=10.9 Hz), 8.58 (s, 1H), 8.64 (bs, 2H)

reactant | 6-bromo-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.34 mmol, 0.13 g | BrC=1C=C2C(=NC1)C(=CN2CC2=NC=NC(=C2C)OC)C(=O)O | C15H13BrN4O3
reactant | 2-fluoroethan-1-amine | 0.68 mmol, 0.06 g | FCCN | C2H6FN
reactant | triethylamine | 1.02 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | T3P | 1.02 mmol, 0.32 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 6-bromo-N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | BrC=1C=C2C(=NC1)C(=CN2CC2=NC=NC(=C2C)OC)C(=O)NCCF | C17H17BrFN5O2
